US05089643
The process of Example 1 was substantially followed except LiP(t-Bu)2 was substituted for LiAs(t-Bu)2 in the same molar proportions with respect to (t-Bu)2AlCl which was substituted for (t-Bu)2GaCl. The monomeric phosphinoalane, (t-Bu)2AlP(t-Bu)2, was produced. See NMR Table 1.

reactant | LiP(t-Bu)2 | [Li]P(C(C)(C)C)C(C)(C)C
reactant | LiAs(t-Bu)2 | [Li][As](C(C)(C)C)C(C)(C)C
reactant | (t-Bu)2AlCl | [Al](C(C)(C)C)(C(C)(C)C)Cl
product | (t-Bu)2AlP(t-Bu)2 | [Al](C(C)(C)C)(C(C)(C)C)P(C(C)(C)C)C(C)(C)C | InChI=1S/C8H18P.2C4H9.Al/c1-7(2,3)9-8(4,5)6;2*1-4(2)3;/h1-6H3;2*1-3H3;/q-1;;;+1
